US04496572
Bromine (0.40 g) was added dropwise over 1 minute to a stirred solution of 1-acetyl-2,3-dimethylindole-5-carboxylic acid ethyl ester (0.65 g) in acetic acid (1.3 ml). After a few minutes a solid precipitated. The mixture was diluted with ca 5 ml. of ether and the solid was filtered off, washed with ether and dried to give 1-acetyl-2-bromomethyl-3-methylindole-5-carboxylic acid ethyl ester (0.38 g), m.p. 125°-130° . The product was unstable and was used directly in the next stage.

reactant | Bromine | 0.40 g | BrBr | Br2
reactant | 1-acetyl-2,3-dimethylindole-5-carboxylic acid ethyl ester | 0.65 g | C(C)OC(=O)C=1C=C2C(=C(N(C2=CC1)C(C)=O)C)C | C15H17NO3
solvent | acetic acid | 1.3 ml | C(C)(=O)O | C2H4O2
product | 1-acetyl-2-bromomethyl-3-methylindole-5-carboxylic acid ethyl ester | 0.38 g | C(C)OC(=O)C=1C=C2C(=C(N(C2=CC1)C(C)=O)CBr)C | C15H16BrNO3
